US04894385
Methyl 4-[1-(2,4,6-trimethoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate
13.5 ml of trifluoroacetic acid were added, whilst ice-cooling, to a mixture of 940 mg of methyl 4-mercaptobenzoate and 1.04 g of 1-[2-hydroxy-2-(2,4,6-trimethoxyphenyl)ethyl]imidazole, and the resulting mixture was stirred at a temperature between 0° and 5° C. for 2 hours. The reaction mixture was then treated and purified in a similar manner to that described in Example 13 to give 1.51 g of the title compound as a colorless oil.

reactant | trifluoroacetic acid | 13.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 4-mercaptobenzoate | 940 mg | SC1=CC=C(C(=O)OC)C=C1 | C8H8O2S
reactant | 1-[2-hydroxy-2-(2,4,6-trimethoxyphenyl)ethyl]imidazole | 1.04 g | OC(CN1C=NC=C1)C1=C(C=C(C=C1OC)OC)OC | C14H18N2O4
product | Methyl 4-[1-(2,4,6-trimethoxyphenyl)-2-(imidazol-1-yl)ethylthio]benzoate | 1.51 g | COC1=C(C(=CC(=C1)OC)OC)C(CN1C=NC=C1)SC1=CC=C(C(=O)OC)C=C1 | C22H24N2O5S
